US07465798B2
9-Carbamoyl-2-(4-chloro-benzyl)-3-hydroxy-7,8,9,10-tetrahydro-[1,9]phenanthroline-4-carboxylic acid
A mixture of 2-(4-Chloro-benzyl)-3-hydroxy-7,8,9,10-tetrahydro-(1,9]phenanthroline-4-carboxylic acid (0.213 g, 0.53 mmol), acetic acid (0.6 mL, 5.3 mmol), triethylamine (0.146 mL, 1.06 mmol), KOCN (43 mg, 0.53 mmol), and pyridine (0.84 mL, 5.3 mmol) was stirred at 25° C. overnight. The solid was removed by filtration. HPLC of the mother liquor gave pure product (49.1 mg, 22%) as a beige solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 3.25 (m, 2H), 3.68 (m, 2H), 4.34 (s, 2H), 4.63 (s, 2H), 7.22-7.45 (m, 5H), 8.47 (d, J=9.09 Hz, 1H).

reactant | 2-(4-Chloro-benzyl)-3-hydroxy-7,8,9,10-tetrahydro-(1,9]phenanthroline-4-carboxylic acid | 0.53 mmol, 0.213 g | ClC1=CC=C(CC2=NC3=C4CNCCC4=CC=C3C(=C2O)C(=O)O)C=C1 | C20H17ClN2O3
reactant | acetic acid | 5.3 mmol, 0.6 mL | C(C)(=O)O | C2H4O2
reactant | triethylamine | 1.06 mmol, 0.146 mL | C(C)N(CC)CC | C6H15N
reactant | KOCN | 0.53 mmol, 43 mg | O([K])C#N
reactant | pyridine | 5.3 mmol, 0.84 mL | N1=CC=CC=C1 | C5H5N
product | 9-Carbamoyl-2-(4-chloro-benzyl)-3-hydroxy-7,8,9,10-tetrahydro-[1,9]phenanthroline-4-carboxylic acid | 49.1 mg, 22% | C(N)(=O)N1CCC2=CC=C3C(=C(C(=NC3=C2C1)CC1=CC=C(C=C1)Cl)O)C(=O)O | C21H18ClN3O4
